US05010078
N-[2-[4-(2-Pyrimidinyl)-1-piperazinyl]ethyl]-2-benzofurancarboxamide Dihydrochloride Hydrate
To a stirred solution of [4-(2-pyrimidinyl)piperazino]ethylamine (2.0 g, 0.01 mol) in 50 mL of methylene chloride, benzofurane-2-carboxylic acid chloride (2.6 g, 0.014 mol) and triethylamine (2 g, 0.02 mol) were added. Stirring was continued at room temperature overnight. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The remaining residue was subjected to preparative HPLC. The title compound was separated and converted to the dihydrochloride hydrate salt with ethanolic HCl (0.5 g), m.p. 193° C.

reactant | [4-(2-pyrimidinyl)piperazino]ethylamine | 0.01 mol, 2.0 g | N1=C(N=CC=C1)N1CCN(CC1)CCN | C10H17N5
reactant | benzofurane-2-carboxylic acid chloride | 0.014 mol, 2.6 g | O1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClO2
reactant | triethylamine | 0.02 mol, 2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[2-[4-(2-Pyrimidinyl)-1-piperazinyl]ethyl]-2-benzofurancarboxamide Dihydrochloride Hydrate | O.Cl.Cl.N1=C(N=CC=C1)N1CCN(CC1)CCNC(=O)C=1OC2=C(C1)C=CC=C2 | InChI=1S/C19H21N5O2.2ClH.H2O/c25-18(17-14-15-4-1-2-5-16(15)26-17)20-8-9-23-10-12-24(13-11-23)19-21-6-3-7-22-19;;;/h1-7,14H,8-13H2,(H,20,25);2*1H;1H2
